US04266056
To a warm solution of α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide (14.8 g) and ethanol is added p-chloroaniline (8.9 g) in ethanol. Precipitate appears instantaneously. The mixture is stirred at room temperature for one hour and filtered to yield α-cyano-β-(4-chloroanilino)-N-ethoxycarbonylacrylamide, m.p. 177°-183°.

reactant | α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide | 14.8 g | C(#N)C(C(=O)NC(=O)OCC)=COCC | C9H12N2O4
reactant | p-chloroaniline | 8.9 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | ethanol | C(C)O | C2H6O
product | α-cyano-β-(4-chloroanilino)-N-ethoxycarbonylacrylamide | C(#N)C(C(=O)NC(=O)OCC)=CNC1=CC=C(C=C1)Cl | C13H12ClN3O3
